US08134004B2
Step CA6C: 6-Bromo-2-(2,2,2-trifluoro-1,1-dimethylethyl)quinoline
A suspension of 6-bromoquinolin-2-yl-2,2,2-trifluoro-1-methylethyl methanesulfonate (11.97 g, 30 mmol) in cyclohexane (120 ml) was added trimethylaluminum (120 ml, 123 mmol, 1.03M in hexane solution) at room temperature, and the mixture was stirred at room temperature for 1 hour. The reaction was carefully quenched with saturated sodium bicarbonate aqueous solution (30 ml), brine (10 ml) and diluted with ethyl acetate and heptane (200 ml). After the mixture was stirred for 30 minutes, formed precipitate was removed by celite and washed with ethyl acetate. The filtrate was concentrated and purified through silica gel column chromatography eluting with hexane only to furnish the title compound (9.56 g, 80% yield) as colorless oil. 1H NMR (300 MHz, CDCl3) ppm 1.72 (6H, s), 7.66 (1H, d, J=8.8 Hz), 7.75-7.80 (1H, m), 7.96-8.00 (2H, m), 8.06 (1H, d, J=8.8 Hz). MS (ESI): m/z 318, 320 (M+H)+.

reactant | 6-bromoquinolin-2-yl-2,2,2-trifluoro-1-methylethyl methanesulfonate | 30 mmol, 11.97 g | CS(=O)(=O)OC(C(F)(F)F)(C)C1=NC2=CC=C(C=C2C=C1)Br | C13H11BrF3NO3S
reactant | trimethylaluminum | 123 mmol, 1.03M, 120 ml | C[Al](C)C
solvent | cyclohexane | 120 ml | C1CCCCC1 | C6H12
product | 6-Bromo-2-(2,2,2-trifluoro-1,1-dimethylethyl)quinoline | 9.56 g, 80% yield | BrC=1C=C2C=CC(=NC2=CC1)C(C(F)(F)F)(C)C | C13H11BrF3N
